US08710038B2
2-Acetyl-1-benzofuran-6-yl acetate:
To a'solution of acetic acid 4-Formyl-3-hydroxyphenyl acetate (1.74 g, 9.67 mmol) in acetonitrile (10 mL) was added solid anhydrous potassium carbonate (1.33 g, 9.67 mmol) and stirred for 30 min at room temperature prior to the slow addition of chloroacetone (0.98 g, 9.67 mmol) via a syringe. A reflux condenser was attached and the reaction was heated to reflux overnight, then cooled to room temperature and diluted with ethyl acetate (350 mL). The organic layer was washed with 2.0 N aqueous HCl (100 mL), saturated aqueous sodium chloride (60 mL), dried over magnesium sulfate, filtered, and concentrated to afford crude product. Purification on silica (9:1 to 7:3, hexanes/ethyl, acetate) afforded the desired product together with the product without the acetate group. The total weight of the mixture obtained was 0.4421 g. This mixture was taken to the next step without further purification.

reactant | acetic acid 4-Formyl-3-hydroxyphenyl acetate | 9.67 mmol, 1.74 g | C(=O)C1=C(C=C(C=C1)CC(=O)O)O.C(C)(=O)O
reactant | potassium carbonate | 9.67 mmol, 1.33 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloroacetone | 9.67 mmol, 0.98 g | ClCC(C)=O | C3H5ClO
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 350 mL | C(C)(=O)OCC | C4H8O2
product | 2-Acetyl-1-benzofuran-6-yl acetate | C(C)(=O)OC1=CC2=C(C=C(O2)C(C)=O)C=C1 | C12H10O4
